data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(Cl)cc1)C1C2CCC1C2", "products": "[O][C](c1ccc(Cl)cc1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(Cl)cc1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)cc1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)cc1", "products": "OC(=CC1C=CCC1)c1ccc(Cl)cc1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(Cl)cc1", "products": "O=C(CC1C=CCC1)c1ccc(Cl)cc1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Cl)c2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Cl)c2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1F", "products": "O=C1CCN2C[C@H](OCc3cccc(Cl)c3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2(OC)OC1C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2(OC)C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2(OC)C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2.[O-]C", "products": "COC1OC2(OC)C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2(OC)C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2", "products": "COC1OC2(OC)OC1C1C(=O)C12"}, {"reactants": "COC1OC2(OC)OC1C1C(=O)C12.[O-]C", "products": "COC1OC2(OC)OC1C1C2C1([O-])OC"}, {"reactants": "COC1OC2(OC)OC1C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1(OC)OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1Cl.[Pd]", "products": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1Cl"}, {"reactants": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1Cl", "products": "COc1ccc2c(c1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc2c(c1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc2c(c1Cl)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "CC(C)C1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "CC(C)C1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "CC(C)C1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "CC(C)C1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "CC(C)C1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(C(C)C)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(C(C)C)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(C(C)C)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(C(C)C)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "CC(C)C1[C@H](C)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(C)C2Cl)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(C)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(C)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(C)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(C)C(OC)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
